US05397800
2-Benzyl-3,6-dioxo-2-azabicyclo[2.2.2]octane
A solution of dimethyl sulphoxide (2.34 g) in dichloromethane (5 ml) was added to a cooled (-60° C.) solution of oxalyl chloride (1.78 g) in dichloromethane (5 ml) and after 2 minutes the mixture was treated with a solution of 2-benzyl-2-azabicyclo[2.2.2]octan-3-one (2.31 g--commercially available) in dichloromethane (10 ml), stirred at -60° C. for 30 minutes, treated with triethylamine (5.05 g), allowed to warm up to room temperature, quenched with water and extracted into dichloromethane. The dichloromethane extracts were dried over sodium sulphate and evaporated. The residue was purified by chromatography on silica using hexane plus 50% ethyl acetate as eluant. Appropriate fractions were combined and evaporated to give the desired compound (2.10 g, 92%) as a colourless oil which was used directly in Preparation 3 without characterisation or further purification.

reactant | dimethyl sulphoxide | 2.34 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.78 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-benzyl-2-azabicyclo[2.2.2]octan-3-one | C(C1=CC=CC=C1)N1C2CCC(C1=O)CC2 | C14H17NO
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Benzyl-3,6-dioxo-2-azabicyclo[2.2.2]octane | 2.10 g, 92% | C(C1=CC=CC=C1)N1C2C(CC(C1=O)CC2)=O | C14H15NO2
